US05763437
To a solution of (3RS)-3-amino-1-[(3-azabicyclo[3.2.2]non-3-yl)carbonylmethyl]-5-cyclohexyl-2,3-dihydro-1H-1,4-benzodiazepin-2-one (0.19 g) in dichloromethane (10 ml) was added m-tolyl isocyanate (0.064 g) at room temperature. The mixture was stirred at ambient temperature overnight. The reaction mixture was concentrated in vacuo. The residue was subjected by column chromatography on silica gel with chloroform and a mixture of chloroform and ethyl acetate (5:1) to give N-[(3RS)-1-[(3-azabicyclo[3.2.2]non-3-yl)carbonylmethyl]-5-cyclohexyl-2,3-dihydro-2-oxo-1H-1,4-benzodiazepin-3-yl]-N'-(3-methylphenyl)urea (0.075 g) as a white amorphous mass.

reactant | (3RS)-3-amino-1-[(3-azabicyclo[3.2.2]non-3-yl)carbonylmethyl]-5-cyclohexyl-2,3-dihydro-1H-1,4-benzodiazepin-2-one | 0.19 g | NC1C(N(C2=C(C(=N1)C1CCCCC1)C=CC=C2)CC(=O)N2CC1CCC(C2)CC1)=O | C25H34N4O2
reactant | m-tolyl isocyanate | 0.064 g | C1(=CC(=CC=C1)N=C=O)C | C8H7NO
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | N-[(3RS)-1-[(3-azabicyclo[3.2.2]non-3-yl)carbonylmethyl]-5-cyclohexyl-2,3-dihydro-2-oxo-1H-1,4-benzodiazepin-3-yl]-N'-(3-methylphenyl)urea | 0.075 g | C12CN(CC(CC1)CC2)C(=O)CN2C(C(N=C(C1=C2C=CC=C1)C1CCCCC1)NC(=O)NC1=CC(=CC=C1)C)=O | C33H41N5O3
